US07704997B1
2-(2-Bromo-5-fluoro-phenoxy)-pyridine
2-Bromo-5-fluoro-phenol was reacted with 2-fluoro-pyridine according to the method of Example 101A to provide the title compound. MS (DCI/NH3) m/z 268 (M)+, 270 (M+2)+.

reactant | 2-Bromo-5-fluoro-phenol | BrC1=C(C=C(C=C1)F)O | C6H4BrFO
reactant | 2-fluoro-pyridine | FC1=NC=CC=C1 | C5H4FN
product | 2-(2-Bromo-5-fluoro-phenoxy)-pyridine | BrC1=C(OC2=NC=CC=C2)C=C(C=C1)F | C11H7BrFNO
